Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
sent to the ___ ED due to severe catatonia with hemodynamic 
instability that had continued despite 2 weeks of treatment at 
___ 
 
Major Surgical or Invasive Procedure:
ECT treatment, bilateral. You received 11 acute phase 
treatments, and your first continuation treatment. 

 
History of Present Illness:
Briefly, Mr. ___ is a ___ man with history of
Depression, psychosis, and polysubstance dependence (ecstsy, 
THC, Alcohol), with one prior psychiatric hospitalization in 
___ for significant psychotic and suicidal symptoms that lead 
the shutdown of his school for a day and
expulsion, who was transferred to ___ ED from ___ 
___ ED where he first presented on ___ with 
catatonic symptoms that lead to
hemodynamic instability and had been reported to be unresponsive
to medication managment (ativan and zyprexa) by ___ 
___. He was transferred to our hospital specifically 
because of the availability of ECT.
Upon admission to Deac 4 on ___ he was awake, alert, taking
in PO, and slowly responsive to questions, however quickly
decompensated to a catatonic state that same evening that
escalated to the point where there was concern about his ability
to protect his airway (had shallow breathing, unable to manage
his secretions). He has been cared for on the ___ service
from ___ - ___ when he was transferred back
to ___ 4 for further care. There has been no clear medical 
cause other than his psychiatric and substance abuse history for 
his catatonic symptoms and no further work up was felt to be 
necessary by the medical team after again reviewing past work up 
from ___. Based on history from his parents, the 
most likely diagnosis has remained schizophrenia comorbid with 
ecstasy abuse.  

While on the ___ service, he received variable doses of
ativan, at times he would refuse to take his ativan and it would
be administered as an injection. 

On the day of readmission, Mr. ___ presents much the same way 
as he did on
his one day admission to ___ 4 prior to his transfer to 
___. He is unable to recount a clear history of the events 
leading to his hospitalization. At first states he has been here 
3 days. With prompting he is able to recall being in the 
hospital longer and in fact being at ___ for 
several weeks. He is unable to volunteer spontaneous history. 
With prompting in questions, he confirms concern about
cameras watching his house at home, suicidal thinking, and fears
for his health and weight loss. He is able to see that he has
"less motion" "is not speaking" "less ability to do daily 
tasks."
However, he feels that he would be fine to leave the hospital at
this time. He also does not feel he needs medications. 
"Sometimes I forget certain things..what is going on in my 
environment" "I would be fine without medications. I could just 
go home and everything would work out." "I can do the same thing 
at home." He demonstrated significant attention and memory 
difficulty as a function of the severity of his symptoms. He was 
unable to keep track of what was told to him by his treatment 
team. His insight and judgement was severly impaired.  He is 
aware that guardianship has been applied for to have his parents 
appointed an alternate decision maker. He does not oppose this.  

 
Past Medical History:
PAST MEDICAL HISTORY:*Per Dr. ___
*PCP: Dr. ___ disease
Denies h/o head trauma
? seizures as teenager* - currently denying seizure activity

PAST PSYCHIATRIC HISTORY:*Per Dr. ___
Dx: *depression* - patient denies history of depression
Hospitalizations: 
1. ___ ___ - Tweeting provocative statements, 
giving away money, suicidal ideation
2. ___ ___ - catatonia, reported OD on 
melatonin (10 tablets).
SA/SIB: Stated on twitter that he was going to "go out with a 
bang" in ___, but reports he was just being provocative and 
denies intention to commit suicide at that time.  ___, 
overdose on melatonin - patient claims was to treat back pain.
Harm to others: *denies*
Medication/ECT trials: Started on abilify 6 months ago, but only 
continued for a month. 
Treaters: None currently 
Trauma: *denies physical/sexual/emotional*
 
Social History:
SOCIAL HISTORY: *Per Dr. ___
*B/R in ___ by both parents; 2 brothers and 1 sister* 
Education: ___ in eleventh grade given concern for suicide, 
provocative statements and BB gun at car in school.
Occupations/Income: *works for ___ however, is unemployed 
as recently quit his job as a ___.
Housing: Lives with father and mother
___: Single.  Friends, but no best friend.
Legal hx: ___
Access to weapons: *hunting knife (mother took it away)*

SUBSTANCE USE HISTORY: *Per Dr. ___
alcohol: Drinks occasionally with friends.  At the most 5 
beers/night.  Has blacked out.  Denies withdrawal, alcoholic 
hallucinosis and DTs.
Marijuana: Daily use; *history of synthetic marijuana and ___ 
___ grams daily for the past year; last used 1 month ago*
Ecstasy: Weekly use of ecstasy.
*Illicits: Admitted to using cocaine and heroin in the past.
IVDU: denies*
 
Family History:
Bipolar disorder in paternal cousin.
 
Physical Exam:
Physical exam as performed upon readmission to psychiatry 
service:
General- thin caucasian male, lying in the fetal position in 
bed, wearing scrub pants and t-shirt
Skin- no rashes or lesions noted
HEENT- NCAT, PERRL 
Lungs- CTAB; no wheezes, rhonchi, or rales; no increased work of 
breathing
CV- RRR, S1/S2 of normal intensity; no murmurs, rubs, or gallops
Abdomen- soft, nontender, nondistended, normoactive bowel sounds 
in all 4 quadrants; no hepatosplenomegaly, masses or pulsations 
Extremities- warm, well-perfused; no cyanosis, clubbing, or 
edema 

Unable to perform neurologic exam due to catatonia. Normal tone 
and bulk.  No abnormal movements.  No spontaneous movement.

Neuropsychiatric Examination:
  *Appearance: very thin young male, wearing t-shirt and scrub 
pants, lying very still
  Behavior: pt lying in bed in the fetal position, not moving, 
eyes open
Unable to assess mood, thought process and content, judgment and 
insight, attention, orientation, memory, fund of knowledge, 
calculations, abstraction, speech, and language as pt. is not 
speaking.  

Complete exam from ___
Physical Examination:
VS:  98.7  101   111/70   16   100% on RA
General- NAD. 
Skin- Tan, warm, dry.
HEENT- No scleral icterus. No conjunctival injection. PERRL. No
palatal erythema nor exudates.
Neck and Back- Tachea midline. No spiny tenderness.
Lungs- CTAB.
CV- Regular rhythm. Tachycardic. No M/R/G.
Abdomen: Bowel sounds present. Soft. NT/ND.
Extremities- Moves all extremities.  DP pulses intact.
Neuro-
Cranial Nerves-
       I: Deferred.
       II: PERRL.
      III, IV, VI: EOMI.
      V, VII: Facial strength intact and symmetric.
      VIII: Intact to voice.
      IX, X: Palatal elevation symmetric.
      XI: SCM bilaterally intact.
      XII: Tongue midline.
Motor (without ambient): Would not squeeze hand or blink on
command.
Motor (with ambien):
       Delt:    Bic:     Tri:   
Left   ___      ___      ___
Right  ___      ___      ___     
       Quad:    Pl.flex:
Left   ___      ___
Right  ___      ___
*Deep tendon Reflexes:
       Bicip:  Brachial:   Achilles:
Left   2+      2+          2+
Right  2+      2+          2+

Sensation: 
With ambien: Intact to light touch.
Without ambien: Did not withdrawal from noxious stimuli.
Coordination:
     Finger-nose-finger: Delayed with overshooting at times,
bilaterally.  Intention tremor.
Gait: Narrow based.

 
Pertinent Results:
___:
CK: 128  MB: 1  Trop-T: <0.01

___:

144 | 104 | 9
-------------< 144 AGap 17
3.7  | 27  | 0.8

Ca: 9.9 Mg: 2.0

CK: 123  MB: 1  Trop-T: <0.01

___:

        14.4
6.8 >----< 219
        43.7
N: 57.1 L: 28.5 M: 5.2  E: 7.7 B: 1.5

___: (Tooth pain, after ECT)

          13.9
18.6 >----< 207
          41.3
N: 83.8 L: 10.1 M: 3.8 M: 1.9 E: 0.4

___:
NMDA-R Ab CBA, Serum: Negative.

___:

        16.2
9.2 >----< 256  MCV 85
        44.6
N:65.1 L:26.1 M:5.4 E:2.1 Bas:1.3

143 | 104 | 15
-------------< 83 AGap 17
4.6  | 27 | 0.9
 
CK: 165 

Ca: 9.8 Mg: 2.2 P: 3.5

ALT: 51  AP: 31  Tbili: 0.4  Alb: 5.1  AST: 23  

Iron: 53

Vit B12: 1062   Folate: 8.8

TSH: 1.2   RPR: Nonreactive

UA: Hazy yellow urine. SpecGr 1.017, pH 6.5.
Urobil Neg, Bili Neg, Leuk Neg, Bld Neg, Nitr Neg, Prot Tr, Glu 
Neg, Ket Neg.
RBC 1, WBC 0, Bact None, Yeast None, Epi 0, Amorph Few, Mucous: 
Rare

Toxicology:
Urine Benzos, Barbs, Opiates, Cocaine, Amphet, MthdneNegative

ECG:
___ 1740: sinus tachycardia, rate 108 bpm. non-specific 
ST-T wave changes
___ 1428: sinus tachycardia, non-specific ST-T wave changes
___: sinus tachycardia, suspect limb lead reversal 
given prior ecg. recommend repeat ecg.
___ 1603: sinus tachycardia, normal axis compared to 1516 
ecg (likely prior ecg result of limb lead reversal), 
non-specific st-t wave changes as prior ecgs. No evidence of 
pre-excitation, SVT, heart block.

Summary of reports from ___: 
LP and EEG were negative.

Patient noted to have sinus bradycardia in OSH ED (as low as 48
recorded).

CT head without (___): Normal unenhanced CT of the brain. No
acute intracranial abnormality identified.
Mild paranasal sinus mucosal disease with fluid in the right
sphenoid sinus suggesting acute on chronic process in the
appropriate clinical setting.

MR brain without (___):
Negative for acute infarct.  Negative for hemorrhage, mass,
edema, hydrocephalus, or cortical infarction. The white matter 
is
unremarkable.  The sulci and ventricules are within normal 
limits
of size for the patient's stated age.

Initially had an elevated WBC of 16.7 with a left shift 89.6%
neutrophils, but resolved. Also had rising ALT to 97 on ___. 
AST was 37.

TSH 1.8 with FT4 1.26.
CRP 43.9 (___) <-- 62.2 (___)
B12 801
RPR nonreactive.
Ammonia < 25

Toxicology 
Urine (___): Negative for cocaine, cannabinoids, alcohol,
amphetamines, benzodiazepines, barbiturates, opiates, PCP.
Serum (___): <3 mg/dl.

CSF:  
Clear colorless fluid.  Negative for xanthrochromia.
1 WBC, 1 RBC. No organisms.
Glucose 53.  TP 47.
Negative for zoster.
___ screen: Antibody screen negative.

___ 09:30AM BLOOD CERULOPLASMIN  WNL at 20    
 
Brief Hospital Course:
# LEGAL: ___
# PSYCHIATRIC:   Upon return to the inpatient psychiatry service 
on ___, collateral from the parents and ___ team 
revealed that patient would show some improvement with ativan if 
he consistently received it.  However, when he would refuse 
ativan he did he became more catatonic. Patient was started on 
scheduled ativan, which he could not refuse due to possibility 
of irreversible harm given his persistent catatonic state. It 
was administered IM for his safety, despite the lack of court 
commitment or guardianship at that time. His parents were in 
agreement with this plan as they observed over and over how 
necessary ativan was for ___ to remain conscious 
consistently. Ultimately guardianship was obtained by his 
parents and the patient was committed on a section 7,8,8b.  His 
maximum dosing of ativan during admission was 2 mg q 4 hour. As 
Mr. ___ continued to remain catatonic despite ativan dosing 
and continued to struggle in consistently eating his meals, 
consistently drinking fluids, was unable to consistently accept 
pills of ativan (struggled with pill compliance outside of a 
hospital as well), was unable to participate in sustained 
conversations or in structured groups and remained in such 
danger of ongoing decompensation from his illness, permission to 
begin ECT was sought from the court on a section 7,8,8b.  The 
role of ECT in severe catatonia was discussed with the patient 
and his family and was assessed to be his best chance at 
stabilizing and being able to return home with his parents 
safely back to ___. Dr. ___, and 
anesthesia were all consulted, in addition to Dr. ___ 
unit director. With ECT treatment, under the care of Dr. 
___, Mr. ___ did indeed show significant improvement 
in his symptoms. He was able to tend to his hygiene, eat his 
meals regularly, speak spontaneously with the team, socialize in 
the milieu, attend groups, and participate in enjoyable 
activities. As his catatonia improved with ECT, he was found to 
be more sedated with some signs of ativan intoxication and the 
dose of ativan was ultimately reduced to 2mg TID. 

While on the ___ service, abilify had been started to work 
to target his psychotic symptoms. He had a prior good response 
to abilify when psychiatrically hospitalized in ___. With 
abilify, ativan, and the completion of ECT #11 the patient 
appeared to have reached maximum benefit from ECT. Where no 
further improvement was seen and his parents had felt that he 
returned very much to his baseline. In general, he had tolerated 
ECT well with few side effects, but towards the end of the 
course did present as having more short term confusion, 
sedation, and forgetfullness around the ECT treatments. Despite 
dramatic improvement with ECT, ___ did remain slowed in 
response latency, demonstrated reduced expression of thought 
content, psychomotor slowing, and a generalized negativism. This 
always appeared less when he was engaged in enjoyable activity 
on the unit or visiting with his family.  A trial of a lower 
dose of ativan to 1mg TID was attempted to rule out sedation as 
being a cause, but this appeared to increase the slowing, so 
this was increased back to ativan 2mg TID (higher doses had 
appeared sedating). In efforts to treat residual psychosis, 
abilify was increased to 30mg daily, but this also did not 
appear to make a significant impact.  Ultimately abilfy 20mg po 
daily was continued and appeared to be the best dose to target 
some residual mild auditory hallucinations without increasing 
slowing. However, he did have some increased tone in his upper 
extremities that was not present on the lower dose of abilify. 
This should continue to be monitored through time and a lower 
dose of abilify could again be considered.  

At time of discharge, Mr. ___ was free of symptoms of 
depression. He was able to reflect back to a time when he had 
been feeling depressed with suicidal thoughts in the time period 
before his hospitalization at ___. He had reflected on a 
past feeling that he was very sick, had cancer, and was going to 
die, so he had thoughts at ending his own life. At time of 
discharge there was no evidence of suicidal thoughts, he 
appeared future oriented, and appeared motivated to continue to 
work towards goals of trying to work again or return to school. 
He felt healthy, back to himself, and no longer feared cancer of 
physical ailments. Through out his admission, his connection to 
and love for his family was apparent and appeared to be his most 
significant protective factor. At time of discharge, ___ 
denied auditory and visual hallucinations. He could reflect back 
to past symptoms of prominent voices, outside of his head that 
he experienced as commentary of his thoughts and actions. These 
voices were mixed with sound and at worst happened frequently 
through the day. Prior to discharge they lasted seconds 
infrequently, and this appeared to resolve with abilfy 20mg 
daily, but will continue to need to be monitored closely 
ultimately for effectiveness and ongoing tolerability. This has 
been his only antipsychotic trial thus far. 

At his worst, he had prominent visual hallucinations, for 
example seeing a fly which came and went during his catatonia 
based upon what he was saying and what the voices were saying. 
When he presented to the inpatient unit initally he was 
significantly internally preoccupied. Sitting or standing 
staring at the wall or ceiling for prolonged periods of time. 
This had resolved by time of discharge, but at times still 
appeared distracted for brief periods of time.

Mr. ___ remains at risk of relapse into psychotic and 
catatonic symptoms through time. At this time, he appears safe 
and appropriate to transition home with his family back to ___ with ongoing close follow up. His risk to himself has 
been reduced by a number of modalities: 1. The significant 
improvement of his symptoms and the resolution of his severe 
catatonia leading to medical instability with ECT treatment with 
the plan of a taper of ECT through time. 2. By continuing on 
oral ativan as evidence favors ongoing ativan use vs slow taper 
through time, 3. Antipsychotic use to treat his psychotic 
disorder 4. His parents being appointed ___ Guardians for 
appropriate decision making as ___ continues to have 
impaired insight and judgement overall and was not able to 
follow through on his treatment prior to this hospitalization in 
the past. Legal department states this guardianship would be 
recognized in ___. 5. The ongoing close monitoring of 
his health and behavior by his parents who are very thoughtful 
about his care and very dedicated to his ongoing health. 6. 
___ current commitment to sobriety and the amount of 
education provided regarding the dangers of drugs and alcohol. 
7. The reconnection to mental health follow up in ___. 

Although, it would be most ideal for ___ to transition 
directly to a partial hospital program or day program, this is 
not possible given his current lack of Medicaid. His parents are 
able and trustworthy to take him to emergency care should he 
show signs of relapse in a less structured environment. 

Diagnosis: While at ___ he had a medical 
evaluation that included the following:  MRI, EEG, LP, ___, 
RPR, LFTs, and ammonia level - all of this was unremarkable. He 
had multiple physical exams by medical doctors at ___ and 
here at ___ that did not reveal an organic basis to his 
catatonia outside of mental illness and substance abuse. while 
at ___ NMDA-R ab was obtained and it was negative, Thyroid was 
normal, in addition to urine studies. History and presentation 
has consistently pointed to likely schizophrenia with comorbid 
ecstasy abuse as the primary cause of his acute catatonia and 
psychosis. He was reported to have a normal developmental 
history by his pediatrician. Although he is reported to be at 
baseline by family, his presentation at discharge appears to be 
related to residual effects of ecstasy versus negative symptoms 
associated with psychotic disorder vs residual symptoms of 
catatonia that have not responded to ECT or ativan. ___ was 
drawn and is currently pending. This is expected to be negative. 
Final results will be forwarded to outpatient providers. It is 
also recommended that the patient have a complete neurologic 
exam by a pediatric neurologist and a complete slit lamp eye 
exam. Although his CERULOPLASMIN level was normal at 20. It will 
also be helpful to follow up with his pediatrician who has known 
him through his whole life to judge if he has returned to his 
known baseline.

# MEDICAL:
Hemodynamincs/Volume status:  Patient had a known history of 
hemodynamic instability, which was responsive to IV hydration, 
and laboratory abnormalities (rise in Cr and AST) when catatonic 
and unable to keep up with his nutritional and volume needs. 
Given concern for prior hemodynamic instability, patient's 
orthostatics were monitored.  Although patient was initially 
able to eat, once his catatonia became more incapacitating he 
was started on IVFs.  At times, he had sinus tachycardia and 
repolarization abnormalities.  Cardiology consulted and cleared 
him for continued ECT without need for additional workup. At 
time of discharge his blood pressure and pulse remained normal 
for several weeks as his hydration status significantly 
improved. 

Urinary retention:  Patient was less interactive and bladder 
scans were initiated, which revealed urinary retention.  A foley 
 was placed and greater than 900 cc of urine was drained from 
patient's bladder.  Urine was noted to be concentrated and there 
was concern for sediment causing difficulty with drainage.  
Resolution of urinary symptoms upon return to inpatient 
psychiatry and there was no reoccurrence of difficulty once his 
catatonia resolved. 

Ophthomology: Patient denied visual problems through out his 
admission. Through out his time in the hospital he was found to 
have symmetrical mydriasis without clear etiology. This was 
present upon admission and remained essentially unchanged. He 
was also noted to have a reduced blink frequency and was 
observed to have times when he would sleep with his eyes open 
(when not catatonic ). Optho was consulted and they recommended 
outpatient evaluation  and lacrilube application to eyes for dry 
eyes and decreased blink
frequency. He should seek more urgent help should his eyes 
become red and/or irritated. 

# MILIEU:  No behavioral problems in the milieu.  As he became 
less catatonic, he was able to interact with other patients and 
initiate conversation. He participated in groups and was social 
with peers. 

# FAMILY/SOCIAL WORK: Team was consistently in contact with 
patient's family through out admission and worked to have his 
father and mother appointed guardians. Several family meetings 
were held. His parents were very dedicated to his care and came 
to visit him every day during his admission. They should 
continue to be closely involved in all medical decision making 
outside of the hospital. 

 
Medications on Admission:
None prior to admission to ___. 

Had been maintained on stool softeners, abilify,and ativan 
during admission to ___ service. 
 
Discharge Medications:
1. Aripiprazole 20 mg PO DAILY 
RX *aripiprazole [Abilify] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
2. Lorazepam 2 mg PO TID 
RX *lorazepam [Ativan] 2 mg 1 tablet by mouth three times a day 
Disp #*90 Tablet Refills:*0
3. Artificial Tear Ointment 1 Appl BOTH EYES PRN dry eyes 
RX *artificial tear ointment [Nighttime Relief Eye]   1 
application application at bedtime Disp #*1 Tube Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Catatonia
Schizophrenia, catatonic type 
Ecstasy Abuse 

 
Discharge Condition:
Appearance: No apparent distress.  Young thin male with short
brown hair wearing comfortable clothing. 
Behavior: Some spontaneous movements. Seated comfortably.
Orients toward interviewing clinician. Eye contact less intense, 

Mood and Affect: 'good, relaxed'; restricted as at baseline,
less reactive than yesterday
Thought process: Linear, logical, concrete
Thought Content: remains somewhat impoverished, no overt
delusions, future oriented. 
Judgment and Insight: impaired, but improved from admission.
However does not appear as having complex decision making
capacity  
Speech: improved tone but still slightly monotone, decreased
latency in responses, volume improved. Responds in short
sentences. 
Language: No paraphasic errors. 
Attention: More attentive to conversation

 
Discharge Instructions:
Dear ___,

As you know, you came to ___ for catatonia.  Your catatonia 
was so paralyzing, you were not able to care for yourself or 
make your own decisions.  We had to get the court and your 
parents involved to help make decisions for you.  They helped us 
to provide and you to obtain  the treatment you needed (ECT and 
ativan) to start interacting with your surroundings. 

As we have discussed, there are many reasons for catatonia, but 
psychosis and substance abuse are both common causes.  To treat 
your psychosis, you are on ability. To help prevent relapse and 
treat residual symptoms of catatonia you remain on ativan. ECT 
was a necessary treatment given the degree of your symptoms and 
it is currently being tapered. It is going to be very important 
for you to avoid substances in the future as they trigger 
recurrence of psychosis and catatonia.

Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.

Please continue all medications as directed.

Please avoid abusing alcohol and any drugs--whether prescription 
drugs or illegal drugs--as this can further worsen your medical 
and psychiatric illnesses.

Please contact your outpatient psychiatrist or other providers 
if you have any concerns.

Please call ___ or go to your nearest emergency room if you feel 
unsafe in any way and are unable to immediately reach your 
health care providers. Please go to your nearest emergency room 
if you again become catatonic.
 
We wish you the best of health,
Your ___ Mental Health Care Team
 
Followup Instructions:
___